US08859541B2
2-amino-N-[1-[2-(1,3-thiazol-4-yl)ethynyl]isoquinolin-3-yl]propanamide
A mixture of tert-butyl-N-[1-oxo-1-[[1-[2-(1,3-thiazol-4-yl)ethynyl]isoquinolin-3-yl]-amino]propan-2-yl]carbamate E4b (12 mg, 0.03 mmol) and DCM:TFA (9:1, 3 ml) is stirred at RT for 1 h. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 2 mg (22%). HPLC-MS: M+H=323; tR=1.65 min (*Method—1).

reactant | tert-butyl-N-[1-oxo-1-[[1-[2-(1,3-thiazol-4-yl)ethynyl]isoquinolin-3-yl]-amino]propan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(NC=1N=C(C2=CC=CC=C2C1)C#CC=1N=CSC1)=O)C)=O | C22H22N4O3S
reactant | DCM TFA | 3 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-amino-N-[1-[2-(1,3-thiazol-4-yl)ethynyl]isoquinolin-3-yl]propanamide | NC(C(=O)NC=1N=C(C2=CC=CC=C2C1)C#CC=1N=CSC1)C | C17H14N4OS
